US08466186B2
(e) N-{3-[6-(5-Aza-spiro[2.4]hept-5-yl)-5-chloro-1H-benzimidazol-2-ylamino]-4-chloro-benzyl}-2,2-dimethyl-propionamide
The sub-title compound was prepared from 3-[6-(5-aza-spiro[2.4]hept-5-yl)-5-chloro-1H-benzimidazol-2-ylamino]-4-chloro-benzylamine (60 mg, 0.1), pivaloyl chloride (20 μL, 0.1 mmol) and TEA (160 μL, 1.1 mmol) in THF (5 mL) in analogy to example 3, step (e).

reactant | 3-[6-(5-aza-spiro[2.4]hept-5-yl)-5-chloro-1H-benzimidazol-2-ylamino]-4-chloro-benzylamine | 60 mg | C1CC12CN(CC2)C=2C(=CC1=C(NC(=N1)NC=1C=C(CN)C=CC1Cl)C2)Cl | C20H21Cl2N5
reactant | pivaloyl chloride | 0.1 mmol, 20 μL | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | N-{3-[6-(5-Aza-spiro[2.4]hept-5-yl)-5-chloro-1H-benzimidazol-2-ylamino]-4-chloro-benzyl}-2,2-dimethyl-propionamide | C1CC12CN(CC2)C=2C(=CC1=C(NC(=N1)NC=1C=C(CNC(C(C)(C)C)=O)C=CC1Cl)C2)Cl | C25H29Cl2N5O
